US09120788B2
Step 2. Synthesis of 3-(4-chloro-3-fluorophenyl)-N-(1-methyl-1H-pyrazol-3-yl)-3H-imidazo[4,5-b]pyridine-2-carboxamide (5)
To a solution of ethyl 3-(4-chloro-3-fluorophenyl)-3H-imidazo[4,5-b]pyridine-2-carboxylate (C13) (32 mg, 0.10 mmol) and 1-methyl-1H-pyrazol-3-amine (29 mg, 0.30 mol) in toluene (3 mL) was added trimethylaluminum (2 M solution in toluene, 0.3 mL, 0.6 mmol) at room temperature. The reaction mixture was irradiated in a microwave reactor at 150° C. for 1 hour, whereupon it was partitioned between water (20 mL) and ethyl acetate (50 mL). The organic layer was washed with saturated aqueous sodium chloride solution (20 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Purification via reversed phase HPLC (Column: Agella Venusil ASB-C18, 5 μm; Mobile phase A: 0.225% formic acid in water; Mobile phase B: 0.225% formic acid in acetonitrile; Gradient: 33% to 63% B) afforded the product as a yellow solid. Yield: 2.0 mg, 5.4 μmol, 5%. LCMS m/z 371.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.47 (br d, J=4.6 Hz, 1H), 8.32 (br d, J=8 Hz, 1H), 7.69 (dd, J=8, 8 Hz, 1H), 7.48-7.56 (m, 3H), 7.35 (br d, J=8 Hz, 1H), 6.52-6.55 (m, 1H), 3.83 (s, 3H).

reactant | ethyl 3-(4-chloro-3-fluorophenyl)-3H-imidazo[4,5-b]pyridine-2-carboxylate | 0.10 mmol, 32 mg | ClC1=C(C=C(C=C1)N1C(=NC=2C1=NC=CC2)C(=O)OCC)F | C15H11ClFN3O2
reactant | 1-methyl-1H-pyrazol-3-amine | 0.30 mol, 29 mg | CN1N=C(C=C1)N | C4H7N3
reactant | trimethylaluminum | 0.6 mmol, 2 M, 0.3 mL | C[Al](C)C
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-chloro-3-fluorophenyl)-N-(1-methyl-1H-pyrazol-3-yl)-3H-imidazo[4,5-b]pyridine-2-carboxamide | ClC1=C(C=C(C=C1)N1C(=NC=2C1=NC=CC2)C(=O)NC2=NN(C=C2)C)F | C17H12ClFN6O
